US05405851
3-Amino-N,N,-diethyl-1,2-dihydro-1-oxobenzo[f]quinazoline-9-sulfonamide
3-Amino-8-bromo-N,N-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide (0.43 g,1 mmole) was suspended in methanol(200 ml). 10% Palladium on carbon(0.60 g) was added to the suspension and the mixture was shaken under a hydrogen atmosphere at 23 psi for 3 hours. Methanol (750 ml) was added, and the mixture refluxed until the solid dissolved. The hot solution was filtered through celite. The celite and catalyst were washed by heating under reflux in methanol (500 ml) and the suspension filtered through fresh celite. Methanol was removed from the combined filtrates and the solid heated under reflux with pivalic anhydride (8 ml, Aldrich) under nitrogen for 30 minutes. The reaction mixture was evaporated to dryness, the residue applied to a silica column, and eluted with methanol/methylene chloride(1:199). The main fractions represented the title compounds;

reactant | 3-Amino-8-bromo-N,N-diethyl-5,6-dihydrobenzo[f]quinazolin-1(2H)-one-9-sulfonamide | 1 mmole, 0.43 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=C(C(=C3)Br)S(=O)(=O)N(CC)CC | C16H19BrN4O3S
solvent | methanol | 200 ml | CO | CH4O
catalyst | Palladium on carbon | 0.60 g | [Pd] | Pd
solvent | Methanol | 750 ml | CO | CH4O
product | 3-Amino-N,N,-diethyl-1,2-dihydro-1-oxobenzo[f]quinazoline-9-sulfonamide | NC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)N(CC)CC | C16H18N4O3S
